US06723722B1
1-[1-(tert-Butoxycarbonyl)-4-piperidinylamino]-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone (300 mg) was combined with a 4N solution of hydrochloric acid in ethyl acetate (10 ml) and stirred at room temperature for 30 minutes. The reaction mixture was concentrated to obtain a crude crystal of 4-(6-chloronaphthalene-2-sulfonyl)-1-(4-piperidinylamino)-2-piperazinone hydrochloride. A solution of the resultant 4-(6-chloronaphthalene-2-sulfonyl)-1-(4-piperidinylamino)-2-piperazinone hydrochloride and triethylamine (1.16 g) in methanol (15 ml) was combined with ethyl acetoimidate (712 mg) and stirred at room temperature for 15 hours. The reaction mixture was concentrated and the residue was dissolved in dichloromethane, washed with a 1N aqueous solution of sodium hydroxide, dried and concentrated. The resultant residue was dissolved in ethyl acetate, combined with a solution of hydrochloric acid in ethyl acetate to precipitate a hydrochloride, which was collected by filtration and dried to obtain the title compound (243 mg) as a colorless solid.

reactant | 1-[1-(tert-Butoxycarbonyl)-4-piperidinylamino]-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone | 300 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NN1C(CN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)=O | C24H31ClN4O5S
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 4-(6-chloronaphthalene-2-sulfonyl)-1-(4-piperidinylamino)-2-piperazinone hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)NC1CCNCC1)=O | InChI=1S/C19H23ClN4O3S.ClH/c20-16-3-1-15-12-18(4-2-14(15)11-16)28(26,27)23-9-10-24(19(25)13-23)22-17-5-7-21-8-6-17;/h1-4,11-12,17,21-22H,5-10,13H2;1H
